US08895761B2
A solution of 3-methyl-1-pentyn-3-ol (30 g, 0.3 mol) in tetrahydrofuran (250 ml) is cooled to −78° C. under a nitrogen atmosphere and n-butyl lithium (1.6 molar solution in hexanes, 383 ml, 0.611 mol) is added slowly over 1.5-2.0 hours. The reaction mixture is stirred for 1 hour at −78° C. and a solution of 2-butanone (41 ml, 0.458 mol) in tetrahydrofuran (50 ml) is added. The reaction mixture is stirred at −78° C. for one hour, allowed to come to ambient temperature and stirred for 2-3 hours. The reaction mixture is cooled to 10° C. and quenched with ice cold water. The aqueous phase is extracted with dichloromethane (3×200 ml). The organic phases are combined, washed with water, and dried over anhydrous sodium sulfate. The mixture is filtered, and the filtrate is evaporated under reduced pressure. The residue is purified by column chromatography on silica gel to give 3,6-dimethyloct-4-yne-3,6-diol (27 g) as a colourless oil.

reactant | 3-methyl-1-pentyn-3-ol | 0.3 mol, 30 g | CC(C#C)(CC)O | C6H10O
reactant | n-butyl lithium | 0.611 mol, 1.6 molar, 383 ml | C(CCC)[Li]
reactant | 2-butanone | 0.458 mol, 41 ml | CC(CC)=O | C4H8O
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 3,6-dimethyloct-4-yne-3,6-diol | 27 g | CC(CC)(C#CC(CC)(O)C)O | C10H18O2
